US07259266B2
Ethyl 6-chloro-8-(3-methylbut-1-ynyl)-2-(trifluoromethyl)-2H-chromene-3-carboxylate
To 2.000 g (4.624 mmole) of ethyl-6-chloro-8-iodo-2-(trifluoromethyl)-2H-chromene-3-carboxylate was added 267 mg (0.231 mmole) tetrakis(triphenylphospine)palladium(0), 88 mg (0.462 mmole) copper (I) iodide, 40 mL degassed toluene, 1.930 mL (13.87 mmole) degassed TEA, and 0.473 g (6.94 mmole) 3-methyl-1-butyne. The mixtures was stirred overnight at room temperature. The mixture was concd and the resulting oil was purified using reverse phase chromatography to afford 1.573 g (91%) of a yellow crystalline solid: 1H NMR (CDCl3/400 MHz) 1.26 (d, 6H, J=6.8 Hz), 1.34 (t, 3H, J=7.2 Hz), 2.80 (septet, 1H, J=6.8 Hz), 4.27-4.35 (m, 2H), 5.78 (q, 1H, J=6.8 Hz), 7.09 (d, J=2.4 Hz), 7.31 (d, 1H, J=2.4 Hz), 7.59 (s, 1H); MS (ES+) 373 (M+1, 100): MS (EI) 372 (M+, 22), 303 (100), 275 (35).

reactant | ethyl-6-chloro-8-iodo-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 4.624 mmole, 2.000 g | C(C)OC(=O)C=1C(OC2=C(C=C(C=C2C1)Cl)I)C(F)(F)F | C13H9ClF3IO3
reactant | 3-methyl-1-butyne | 6.94 mmole, 0.473 g | CC(C#C)C | C5H8
catalyst | copper (I) iodide | 0.462 mmole, 88 mg | [Cu]I
product | Ethyl 6-chloro-8-(3-methylbut-1-ynyl)-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 1.573 g, 91% | ClC=1C=C2C=C(C(OC2=C(C1)C#CC(C)C)C(F)(F)F)C(=O)OCC | C18H16ClF3O3
